US08492582B2
Potassium carbonate (1.6 g) was added to a solution mixture of methyl 2-(5-acetoxy-2-(benzyloxy)benzamido)-4-phenylbenzoate (3.8 g) in chloroform (5.0 mL), methanol (10 mL), and acetone (10 mL), followed by stirring at room temperature for 1 hour. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure, and 1.0 mol/L hydrochloric acid and chloroform were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 3.4 g of methyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | Potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(5-acetoxy-2-(benzyloxy)benzamido)-4-phenylbenzoate | 3.8 g | C(C)(=O)OC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C30H25NO6
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 mL | CO | CH4O
product | methyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 3.4 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C28H23NO5
